US07968746B2
Oxidation as described in protocol B, using 56.7 mg (0.184 mmol) of 6-hydroxy-N-(3-hydroxypropyl)-2,5,7,8-tetramethylchroman-2-carboxamide and 222 mg CAN (0.406 mmol) yielded 49.7 mg of 2-hydroxy-N-(3-hydroxypropyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow solid.

reactant | 6-hydroxy-N-(3-hydroxypropyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 0.184 mmol, 56.7 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCO)C)C | C17H25NO4
reactant | CAN | 0.406 mmol, 222 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-N-(3-hydroxypropyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 49.7 mg | OC(C(=O)NCCCO)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C17H25NO5
